US08008303B2
2′-Methyl-5′-[(thiophene-2-carbonyl)-amino]-biphenyl-4-carboxylic acid ethyl ester
A mixture of 5′-amino-2′-methyl-biphenyl-4-carboxylic acid ethyl ester (280 mg) and thiophene-2-carbonyl chloride (161 mg) in dichloromethane (5 ml) containing triethylamine (222 mg) was stirred at 20 C for 18 h. The mixture was then partitioned between water and dichloromethane. The dried extracts were then evaporated giving the title compound as a colourless solid (425 mg)

reactant | 5′-amino-2′-methyl-biphenyl-4-carboxylic acid ethyl ester | 280 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)C | C16H17NO2
reactant | thiophene-2-carbonyl chloride | 161 mg | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | triethylamine | 222 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2′-Methyl-5′-[(thiophene-2-carbonyl)-amino]-biphenyl-4-carboxylic acid ethyl ester | 425 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)C=1SC=CC1)C | C21H19NO3S
